* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N2222
R_R3         0 $N_0003  1k  
Q_Q2         $N_0002 $N_0004 $N_0005 Q2N2907A
Q_Q3         $N_0004 $N_0004 $N_0005 Q2N2907A
C_C1         $N_0006 $N_0001  10u  
C_C2         0 $N_0003  10u  
C_C3         $N_0007 $N_0002  10u  
V_V1         $N_0005 0 10V
R_R4         0 $N_0007  1k  
V_V2         $N_0006 0  AC 1V
+SIN 0 10m 1k 0 0 0
R_R1         $N_0001 $N_0005  8.3k  
R_R2         0 $N_0001  1.7k  
R_R5         0 $N_0004  9.3k  
